US09062028B2
Step B. Methyl 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)picolinate
To a degassed solution of 4-(2,3-dimethylphenoxy)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one (0.020 g, 0.045 mmol), methyl 4-bromopicolinate (0.019 g, 0.089 mmol) and potassium carbonate (0.018 g, 0.134 mmol) in dioxane (0.50 mL)/water (0.20 mL) was added tetrakis(triphenylphosphine)palladium (2.57 mg, 2.225 μmol). Upon completion of addition, the vial was purged with argon, sealed, and stirred at 90° C. for 16 h. After cooling to room temperature, the mixture was extracted with EtOAc. The combined organic layer was dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude material was purified by flash chromatography (0-100% ethyl acetate:hexanes) to afford the title compound (17.7 mg, 87% yield) as a clear colorless oil. LCMS, [M+H]+=459.1.

reactant | 4-(2,3-dimethylphenoxy)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | 0.045 mmol, 0.020 g | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)B2OC(C(O2)(C)C)(C)C)C=CC=C1C | C27H36BNO4
reactant | methyl 4-bromopicolinate | 0.089 mmol, 0.019 g | BrC1=CC(=NC=C1)C(=O)OC | C7H6BrNO2
reactant | potassium carbonate | 0.134 mmol, 0.018 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.20 mL | O | H2O
solvent | dioxane | 0.50 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 2.225 μmol, 2.57 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)picolinate | 17.7 mg, 87% yield | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C2=CC(=NC=C2)C(=O)OC)C=CC=C1C | C28H30N2O4
